US04803210
E. Preparation of 5-hydroxyiminocyclohepta[1,2-c]pyridine (Structure 3A: n=2)
Hydroxylamine hydrochloride (2.20 g, 0.317 mole) was added to a stirred mixture of cyclohepta[1,2-c]pyridin5-one and triethylamine (15.00 ml) and the resulting yellow solution was stirred overnight at its reflux temperature. The pale yellow solution was cooled to room temperature, then concentrated by solvent evaporation to a pasty yellow solid. The solid was dissolved in a mixture of water and diethyl ether (1:1, ~700ml) and the yellow Et2O layer was separated and extracted with water (2X, 500 ml), washed with brine, then dried (MgSO4). Filtration through celite followed by concentration of the filtrate gave 2.30g (53%) of a yellow solid, which after trituration with hexane and recrystallization from aqueous ethanol, gave the desired product, m.p. 164°-167° C.

reactant | Hydroxylamine hydrochloride | 0.317 mole, 2.20 g | Cl.NO
reactant | cyclohepta[1,2-c]pyridin5-one | C1=NC=CC2=C1C=CC=CC2=O | C10H7NO
solvent | triethylamine | 15.00 ml | C(C)N(CC)CC | C6H15N
product | 5-hydroxyiminocyclohepta[1,2-c]pyridine | 2.30g, 53% | ON=C1C=CC=CC=2C=NC=CC21 | C10H8N2O
